US05990133
Phenyl N-[5-phenyl-3-(pyrid-3-yl)phenyl]carbamate
The title compound (0.289 g, 100%) was prepared by methodology of description 67 using 5-phenyl-3-(pyrid-3-yl) aniline (0.194 mg, 0.79 mmol), phenyl chloroformate (0.12 ml, 0.87 mmol) and triethylamine (0.12 ml, 0.81 mmol) in DCM (10 ml)

reactant | 5-phenyl-3-(pyrid-3-yl) aniline | 0.79 mmol, 0.194 mg | C1(=CC=CC=C1)C=1C=C(C=C(N)C1)C=1C=NC=CC1 | C17H14N2
reactant | phenyl chloroformate | 0.87 mmol, 0.12 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 0.81 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Phenyl N-[5-phenyl-3-(pyrid-3-yl)phenyl]carbamate | 0.289 g, 100% | C1(=CC=CC=C1)C=1C=C(C=C(C1)NC(OC1=CC=CC=C1)=O)C=1C=NC=CC1 | C24H18N2O2
